US07553836B2
Step A. Preparation of 4-(4-chlorophenyl)-N-(6-((dimethylamino)methyl)-5,6,7,8-tetrahydronaphthalen-2-yl)-1H-pyrrole-2-carboxamide
Following preparation as described in WO03087046, 6-((dimethylamino)methyl)-5,6,7,8-tetrahydronaphthalen-2-amine was converted to the title compound (8 mg) by acylation with 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid (25 mg) following the procedure described in step C of Example 1. MS (ESI) 408 (M+H)+.

reactant | 6-((dimethylamino)methyl)-5,6,7,8-tetrahydronaphthalen-2-amine | CN(C)CC1CC=2C=CC(=CC2CC1)N | C13H20N2
reactant | 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid | 25 mg | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)O | C11H8ClNO2
product | 4-(4-chlorophenyl)-N-(6-((dimethylamino)methyl)-5,6,7,8-tetrahydronaphthalen-2-yl)-1H-pyrrole-2-carboxamide | 8 mg | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)NC1=CC=2CCC(CC2C=C1)CN(C)C | C24H26ClN3O
